US08685969B2
14. 4-(3-Amino-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A solution of benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylcarbamate (0.6318 g, 1.195 mmol) and 10% Pd/C (0.191 g, 0.179 mmol) in THF (31.9 mL) and MeOH (47.8 mL) was hydrogenated. After 2 hr, the reaction was filtered through a wad of CELITE® and rinsed with THF and MeOH. The filtrate was concentrated in vacuo, dissolved in EtOAc (100 mL) and brine (25 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (50 mL). The organic layers were combined, dried over MgSO4, and concentrated in vacuo to give the desired product (0.4462 g, 1.007 mmol, 84% yield) as a tan solid.

reactant | benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-fluorophenylcarbamate | 1.195 mmol, 0.6318 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)F | C29H25FN4O5
solvent | THF | 31.9 mL | C1CCOC1 | C4H8O
solvent | MeOH | 47.8 mL | CO | CH4O
catalyst | Pd/C | 0.179 mmol, 0.191 g | [Pd] | Pd
product | 4-(3-Amino-2-fluorophenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 1.007 mmol, 0.4462 g, 84% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)F | C21H19FN4O3
